US08981084B2
Triphenylphosphine (4.82 g, 18.38 mmol) was added to a solution of 2-(bromomethyl)-4-(4-fluorophenyl)thiazole (5 g, 18.38 mmol) in toluene (30.0 mL) and the reaction was refluxed at 60° C. for 2 h. A precipitate was formed which was filtered and washed with ether (10 mL) thrice to provide 4-(4-fluorophenyl)-2-((triphenylphosphoranylidene)methyl)thiazole (1.1 g, 10.89%), which was carried through without further purification. MS (ESI) m/z: Calculated for C28H21FNPS: 453.11. found: 454.0 (M+H)+

reactant | Triphenylphosphine | 18.38 mmol, 4.82 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(bromomethyl)-4-(4-fluorophenyl)thiazole | 18.38 mmol, 5 g | BrCC=1SC=C(N1)C1=CC=C(C=C1)F | C10H7BrFNS
solvent | toluene | 30.0 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(4-fluorophenyl)-2-((triphenylphosphoranylidene)methyl)thiazole | 1.1 g, 10.89% | FC1=CC=C(C=C1)C=1N=C(SC1)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H21FNPS
